US05260492
A 1 L three-necked flask, fitted with a stir bar and condenser, was charged with 3.0 g of HgO (yellow), 125 mL of 20% oleum, 25 mL of 65% oleum and 75.6 g of 3,4-dichloro-1-iodoperfluorobutane. After the reaction mixture was heated at 110° C. for 2 hours, the condenser was replaced by a distillation head with a 250 mL flask for receiver cooled with ice water. Volatiles were collected, washed with 98% sulfuric acid to remove sulfur trioxide and redistilled to give 40.3 g of 3,4-dichloroperfluorobutyryl fluoride, bp 72°-75° C., 99.8% GC purity.

reactant | oleum | 125 mL | OS(=O)(=O)O.O=S(=O)=O
reactant | oleum | 25 mL | OS(=O)(=O)O.O=S(=O)=O
reactant | 3,4-dichloro-1-iodoperfluorobutane | 75.6 g | ClC(C(C(I)(F)F)(F)F)(C(Cl)(F)F)F | C4Cl2F7I
product | 3,4-dichloroperfluorobutyryl fluoride | 40.3 g | ClC(C(C(=O)F)(F)F)(C(Cl)(F)F)F | C4Cl2F6O
